US09315462B2
Step 2: Synthesis of 8-fluoro-6-hydroxy-3,4-dihydroquinolin-2(1H)-one
3-Chloro-N-(2-fluoro-4-hydroxyphenyl)propanamide (2.1 g) was mixed with anhydrous AlCl3 (7 g) and heated at 160° C. overnight. The resultant mixture was treated with 1N HCl and extracted with EtOAc. After isolation of the organic layer and removal of solvents under reduced pressure, the desired crude product (1.8 g) was collected as light brown solids.

reactant | 3-Chloro-N-(2-fluoro-4-hydroxyphenyl)propanamide | 2.1 g | ClCCC(=O)NC1=C(C=C(C=C1)O)F | C9H9ClFNO2
reactant | AlCl3 | 7 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | 1N | Cl | ClH
product | 8-fluoro-6-hydroxy-3,4-dihydroquinolin-2(1H)-one | FC=1C=C(C=C2CCC(NC12)=O)O | C9H8FNO2
